US05719141
d) N-(Tert-butoxycarbonyl)-2-(hydroxymethyl)aniline
22.5 g of di-tert-butyldicarbonate and 21 ml of triethylamine are added to a solution of 12.3 g of 2-aminobenzyl alcohol in 100 ml of methylene chloride and the mixture is stirred at room temperature for 24 h. The reaction mixture is washed several times with 10% citric acid solution, saturated sodium bicarbonate solution and saturated sodium chloride solution and then concentrated. This gives the title compound: Rf (A) 0.61.

reactant | di-tert-butyldicarbonate | 22.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminobenzyl alcohol | 12.3 g | NC1=C(CO)C=CC=C1 | C7H9NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(Tert-butoxycarbonyl)-2-(hydroxymethyl)aniline | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)CO | C12H17NO3
